US06313122B1
B. 3-Benzyloxy-4-methylaniline
To a stirred solution of 3-benzyloxy-4-methylnitrobenzene (1.1 g, 4.4 mmol) in tetrahydrofuran (25 mL) and methanol (50 mL) was added nickel acetate tetrahydrate (2.2 g, 8.7 mmol). The solution was cooled to 0° C. and sodium borohydride (0.66 g, 17.4 mmol) was added in small portions. After gas evolution had ceased, the solvents were removed in vacuo and the residue was partitioned between ethyl acetate and concentrated ammonium hydroxide. The layers were separated and the organic phase was washed with ammonium hydroxide followed by saturated aqueous sodium chloride solution, dried (magnesium sulfate), filtered, and concentrated In vacuo to give 0.9 g (97%) of the title product as an off-white solid.

reactant | 3-benzyloxy-4-methylnitrobenzene | 4.4 mmol, 1.1 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1C)[N+](=O)[O-] | C14H13NO3
reactant | sodium borohydride | 17.4 mmol, 0.66 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
catalyst | nickel acetate tetrahydrate | 8.7 mmol, 2.2 g | O.O.O.O.C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
product | 3-Benzyloxy-4-methylaniline | 0.9 g, 97% | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1C | C14H15NO
